### PR TITLE
Generalize some modules, algebras, and linear functions using #1125

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR generalizes some results in matrix.v and poly.v using the semimodule and semialgebra structures and semilinear functions introduced in #1125.

#1125 has to be merged first.

##### Minimal TODO list

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

**Comment by pi8027** [comment]
Generalizing the results in `qpoly.v` seems to require generalizing `vector.v` to semi-vector spaces, which looks non-trivial. I will try it later.

**Comment by pi8027** [comment]
I will cut this PR into smaller pieces. The `poly.v` part might already be ready.

File: algebra/mxpoly.v [hunk 1]
```diff
@@ -148,18 +148,19 @@ case: insubP => [i _ <- | ]; first by rewrite mxE.
 by rewrite -ltnNge => le_d_l; rewrite nth_default ?(leq_trans le_p_d).
 Qed.
 
-Lemma poly_rV_is_linear : linear poly_rV.
-Proof. by move=> a p q; apply/rowP=> i; rewrite !mxE coefD coefZ. Qed.
+Lemma poly_rV_is_linear : semilinear poly_rV.
```
Comment (pi8027) [inline algebra/mxpoly.v]: This lemma should be renamed to `poly_rV_is_semilinear` and the original one should be kept as a deprecation notation.

File: algebra/mxpoly.v [hunk 2]
```diff
@@ -148,18 +148,19 @@ case: insubP => [i _ <- | ]; first by rewrite mxE.
...
+Proof. by split=> [a p|p q]; apply/rowP=> i; rewrite !mxE (coefZ, coefD). Qed.
 HB.instance Definition _ := GRing.isSemilinear.Build R {poly R} 'rV_d _ poly_rV
-  (GRing.semilinear_linear poly_rV_is_linear).
+  poly_rV_is_linear.
 
-Lemma rVpoly_is_linear : linear rVpoly.
+Lemma rVpoly_is_linear : semilinear rVpoly.
```
Comment (pi8027) [inline algebra/mxpoly.v]: Same here.
